US05693630
To a solution of 6-phthalimidohexanoic acid (7.83 g, 30 mmol) in 100 mL toluene and 1 mL DMF was added thionyl chloride (7.2 mL, 160 mmol) and the mixture heated at 100° C. for 1 h. After evaporation the residual acid chloride was dissolved in 25 mL methylene chloride and added to diisopropylamine (7.0 g, 70 mmol) in 100 mL methylene chloride at 0-10 C. The mixture was stirred at rt for 2 H, the solvent removed, the residue taken up in ether and extracted with 2N HCl. The organic solvent was removed and the residue recrystallized from diisopropylether/hexane (3:2). Yield 70% of phthalimidohexanoic acid diisopropylamide. Mp 85°-86° C. This amide (1.03 g, 3 mmol) and hydrazinhydrate (250 mg, 5.3 mmol) were heated in ethanol at 80 C. for 6 h. The mixture was cooled and filtered, the solvent removed and the residue taken up in H2O and ethyl acetate. The organic phase yielded 440 mg (70%) of 6-aminohexanoic acid diisopropylamide. This compound (440 mg, 2.0 mmol) was reacted with aceton (240 mg, 6 mmol) and sodium cyanoborohydride (226 mg, 3 mmol) in methanol (pH adjusted to 5-6 with acetic acid) at rt for 5 h. 2 mL 2M HCl was added, the solvent removed and the residue taken up in ether after alkalisation. Yield 400 mg (78%) of 6-isopropylaminohexanoic acid diisopropylamide. This secondary amide (400 mg, 1.6 mmol), 2-methoxyphenethyl bromide (from 2-methoxyphenethyl-alcohol and PBr3, 516 mg, 2.4 mmol), and potassium carbonate (330 mg, 2.4 mmol) in 20 mL DMF were heated for 20 h. The solvent was removed and the residue purified by flash chromatography in aceton. Yield 180 mg (30%) of the title compound.

reactant | 6-phthalimidohexanoic acid | 30 mmol, 7.83 g | C1(C=2C(C(N1CCCCCC(=O)O)=O)=CC=CC2)=O | C14H15NO4
reactant | thionyl chloride | 160 mmol, 7.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | diisopropylamine | 70 mmol, 7.0 g | C(C)(C)NC(C)C | C6H15N
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | phthalimidohexanoic acid diisopropylamide | Yield 70% | C(C)(C)N(C(C(CCCC)N1C(C=2C(C1=O)=CC=CC2)=O)=O)C(C)C | C20H28N2O3
